US07560558B2
Compound 206: 4-(6-Chloro-pyridin-3-yloxy)-6,7-dimethoxyquinoline
2-Chloro-5-hydroxypyridine (100 mg), 4-chloro-6,7-dimethoxyquinoline (861 mg), and 4-dimethylaminopyridine (283 mg) were suspended in o-dichlorobenzene (5 ml), and the suspension was stirred at 140° C. for 2 hr. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-hexane to give the title compound (164 mg, yield 67%).

reactant | 2-Chloro-5-hydroxypyridine | 100 mg | ClC1=NC=C(C=C1)O | C5H4ClNO
reactant | 4-chloro-6,7-dimethoxyquinoline | 861 mg | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 283 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | o-dichlorobenzene | 5 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-(6-Chloro-pyridin-3-yloxy)-6,7-dimethoxyquinoline | 164 mg, yield 67% | ClC1=CC=C(C=N1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C16H13ClN2O3
